US09353075B2
Step 1. Preparation of (4-cyclohexylphenyl)-methanol
Under nitrogen atmosphere, at 0° C., to a stirring mixture of LiAlH4 (2.0 M THF solution, 5.3 mL, 10.53 mmol) in dry Et2O (10 mL), commercially available 4-cyclohexylbenzoic acid (0.5 g, 2.45 mmol) in dry Et2O (5.0 mL) was added dropwise. The mixture was left to react at rt for 4 h, then at 0° C. H2O (0.45 mL), 3.0 M KOH solution (0.45 mL) and H2O (2.0 mL) were very slowly added. The mixture was stirred for 1 h at 0° C., filtered to remove the solid residue, and the organic phase dried over Na2SO4. The organic solution was again filtered and concentrated to dryness affording the title compound (0.46 g, quant.), which was used in the next step without any further purification. 1H NMR (CDCl3): δ 8.05-7.94 (m, 2H), 7.35-7.23 (m, 2H), 4.39 (q, 2H, J=7.12 Hz), 2.59 (tt, 1H J=11.41, 3.27 Hz), 1.97-1.73 (m, 5H), 1.53-1.34 (m, 6H).

reactant | LiAlH4 | 10.53 mmol, 2.0 M, 5.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-cyclohexylbenzoic acid | 2.45 mmol, 0.5 g | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | H2O | 0.45 mL | O | H2O
reactant | KOH | 3.0 M, 0.45 mL | [OH-].[K+]
reactant | H2O | 2.0 mL | O | H2O
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | Et2O | 5.0 mL | CCOCC | C4H10O
product | (4-cyclohexylphenyl)-methanol | 0.46 g | C1(CCCCC1)C1=CC=C(C=C1)CO | C13H18O
